US08202865B2
Step 1: tert-Butyl [(3-cyanobenzyl)amino]acetate
To a stirred solution of glycine-ter-butyl ester (5 g, 0.038 mol) in toluene (100 mL). was added 3-cyanobenzaldehyde (5 g, 0.0381 mol) under N2 and refluxed at 140° C. for 2 h. After complete evaporation of the toluene, the reaction mass was cooled to RT and dissolved in dry methanol. Sodium borohydride (2.17 g, 0.0571 mol) was added in portions at 0° C. After 12 h, the reaction mass was evaporated under vacuum, washed with water (100 mL), extracted in DCM (100 mL), dried over sodium sulphate and concentrated under reduced pressure to afford the title compound as a yellow liquid (8.1 g, 86%). 1H NMR (DMSO-d6, 400 MHz) δ 7.71-7.72 (m, 2H), 7.63-7.65 (m, 1H), 7.53-7.55 (m, 1H), 5.40-5.41 (m, 1H), 4.53-4.54 (m, 2H), 3.17 (s, 2H), 1.39 (s, 9H).

reactant | glycine-ter-butyl ester | 0.038 mol, 5 g | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | 3-cyanobenzaldehyde | 0.0381 mol, 5 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | Sodium borohydride | 0.0571 mol, 2.17 g | [BH4-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl [(3-cyanobenzyl)amino]acetate | 8.1 g, 86% | C(#N)C=1C=C(CNCC(=O)OC(C)(C)C)C=CC1 | C14H18N2O2
